US07151111B2
A solution of 5.16 g (15.7 mmol) of (RS)-1-[4-(4-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid in 70 ml of tetrahydrofurane is treated with 1.76 ml (15.7 mmol) of N-methylmorpholine. Thereafter, the reaction mixture is cooled to −10° C. and 2.08 ml (15.7 mmol) of isobutyl chloroformate are added. After stirring for 3 min, a solution of 2.06 g (31.3 mmol) of sodium azide in 10 ml of water are added while the temperature rises to 0° C. After stirring for 45 min at 0° C., the suspension is diluted with 200 ml toluene and transferred into a separatory funnel. The organic layer is washed twice with 1000 ml of a saturated solution of sodium hydrogencarbonate and twice with 100 ml of a saturated solution of sodium chloride. Thereafter, the organic layer is dried over sodium sulfate and the solvent is evaporated to end with a volume of about 80 ml. The solution is heated gradually to 80° C. and kept at this temperature for 30 min. Thereafter, 35.3 ml (376 mmol) of tert-butanol are added and the mixture is stirred at 80° C. for 18 hours. Then the solvent is removed under reduced pressure, and the residue is chromatographed on silica gel using a 98:2-mixture of dichloromethane and methanol as the eluent. There are obtained 4.82 g (77% of theory) of (RS)-{1-[4-(4-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidin-3-yl}-carbamic acid tert-butyl ester as a white solid. MS: m/e=401 (M+H)+.

reactant | (RS)-1-[4-(4-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid | 15.7 mmol, 5.16 g | FC1=CC=C(COC2=CC=C(C=C2)N2CC(CC2=O)C(=O)O)C=C1 | C18H16FNO4
reactant | N-methylmorpholine | 15.7 mmol, 1.76 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 15.7 mmol, 2.08 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium azide | 31.3 mmol, 2.06 g | [N-]=[N+]=[N-].[Na+]
reactant | tert-butanol | 376 mmol, 35.3 ml | C(C)(C)(C)O | C4H10O
solvent | tetrahydrofurane | 70 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | (RS)-{1-[4-(4-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidin-3-yl}-carbamic acid tert-butyl ester | 4.82 g, 77% | C(C)(C)(C)OC(NC1CN(C(C1)=O)C1=CC=C(C=C1)OCC1=CC=C(C=C1)F)=O | C22H25FN2O4
